US04297364
While stirring, 15.2 g of N-2-butyl-N-methylamine is dripped into a solution of 22.4 g of α-chloro-α-(2,4-dichlorophenyl)-acetyl chloride (see a)) in 100 ml of dioxane. After the exothermic reaction has subsided, the mixture is stirred overnight and then poured into 700 ml of ice water; the resultant mixture is acidified with dilute hydrochloric acid and the oil which has precipitated is extracted 8 times, each time with 100 ml of dichloromethane. The extracts are combined, dried over magnesium sulfate and concentrated; there is obtained 17.2 g of α-chloro-α-(2,4-dichlorophenyl)-acetic acid-N-2-butyl-N-methyl amide as a colorless oil.

reactant | N-2-butyl-N-methylamine | 15.2 g | CC(CC)NC | C5H13N
reactant | α-chloro-α-(2,4-dichlorophenyl)-acetyl chloride | 22.4 g | ClC(C(=O)Cl)C1=C(C=C(C=C1)Cl)Cl | C8H4Cl4O
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | α-chloro-α-(2,4-dichlorophenyl)-acetic acid-N-2-butyl-N-methyl amide | 17.2 g | CC(CC)N(C(C(C1=C(C=C(C=C1)Cl)Cl)Cl)=O)C | C13H16Cl3NO
